US08222416B2
To a mixture of toluene-4-sulfonic acid 1-{1-benzenesulfonyl-5-[2-(1-methyloxy-1-methyl-ethoxy)-propyl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-cyclopentyl-vinyl ester (1.12 g, 1.76 mmol), 4-(methanesulfonyl)phenylboronic acid (704 mg, 3.52 mmol), dichlorobis(triphenylphosphine)palladium (II) (124 mg, 0.17 mmol) in dioxane (5 mL) was added an aqueous sodium carbonate solution (2 M, 2.2 mL). The resulting mixture was subjected to microwave irradiation for 1 h at 100° C. The mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous sodium bicarbonate solution (2×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 33% ethyl acetate/hexanes) afforded 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine (480 mg, 44%) as a light yellow solid: LC/MS m/e calcd for C33H36N2O6S2 [M+H]+ 621.79, observed 621.0.

reactant | toluene-4-sulfonic acid 1-{1-benzenesulfonyl-5-[2-(1-methyloxy-1-methyl-ethoxy)-propyl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-2-cyclopentyl-vinyl ester | 1.76 mmol, 1.12 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)CC(C)OC(C)(C)OC)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C34H40N2O7S2
reactant | 4-(methanesulfonyl)phenylboronic acid | 3.52 mmol, 704 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 2 M, 2.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.17 mmol, 124 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrrolo[2,3-b]pyridine | 480 mg, 44% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)CC2OC(OC2)(C)C)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C33H36N2O6S2
